US07985759B2
To a suspension of NaH (60% dispersed in nujol, 0.96 g, 24 mmol) in THF (40 mL) cooled to ice bath temperature was added hydroxyadamantanone (3.32 g, 20 mmol) dissolved in THF (40 mL) via a syringe over a period of 15 minutes. The reaction mixture was stirred for 30 min then n-Bu4NI (0.74 g, 2 mmol) and ethyl bromide (1.6 mL, 22 mmol) were added. The reaction mixture was warmed to room temperature and stirred for 16 h. After cooling the reaction mixture to 0° C., the excess NaH was quenched by adding sat. aq. NH4Cl solution. The two layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and the solvent was evaporated under reduced pressure to obtain a crude reaction mass, which was purified by column chromatography to yield 5-ethoxyadamantan-2-one (3.0 g) in 77% yield. m/z (M+1) 195; 1H NMR (CDCl3) 300 MHz δ 3.47 (q, J=7.0 Hz, 2H), 2.67-2.60 (m, 2H), 2.38-2.30 (m, 1H), 2.13-1.78 (m, 10H), 1.17 (t, J=7.0 Hz, 3H).

reactant | NaH | 24 mmol, 0.96 g | [H-].[Na+]
reactant | hydroxyadamantanone | 20 mmol, 3.32 g | OC12C(C3CC(CC(C1)C3)C2)=O | C10H14O2
reactant | ethyl bromide | 22 mmol, 1.6 mL | C(C)Br | C2H5Br
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | n-Bu4NI | 2 mmol, 0.74 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | 5-ethoxyadamantan-2-one | 3.0 g, 77% yield | C(C)OC12CC3C(C(CC(C1)C3)C2)=O | C12H18O2
